US07452911B2
11d 1-(2-{4-[4-(4-chloro-phenyl)-thiophen-2-ylethynyl]-phenoxy}-ethyl)-pyrrolidine
Under an N2 atmosphere 5 mL 2 M Na2CO3 solution and 47 mg (0.41 mmol) tetrakis-triphenylphosphane-palladium are added to a solution of 310 mg (0.82 mmol) 1-{2-[4-(4-bromo-thiophen-2-ylethynyl)-phenoxy]-ethyl}-pyrrolidine and 129 mg (0.82 mmol) 4-chlorophenyl-boric acid in 10 mL 1,4-dioxane and the reaction mixture is refluxed for 1 h. The hot solution is filtered through a fibreglass filter, the filtrate is extracted with EtOAc, the organic phase is washed with water and dried over MgSO4. After the desiccant and solvent have been eliminated the residue is purified by chromatography (silica gel, EtOAc/MeOH/NH3 8:2:0.2).

reactant | Na2CO3 | 2 M, 5 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 1-{2-[4-(4-bromo-thiophen-2-ylethynyl)-phenoxy]-ethyl}-pyrrolidine | 0.82 mmol, 310 mg | BrC=1C=C(SC1)C#CC1=CC=C(OCCN2CCCC2)C=C1 | C18H18BrNOS
reactant | 4-chlorophenyl-boric acid | 0.82 mmol, 129 mg | ClC1=CC=C(C=C1)OB(O)O | C6H6BClO3
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 1-(2-{4-[4-(4-chloro-phenyl)-thiophen-2-ylethynyl]-phenoxy}-ethyl)-pyrrolidine | ClC1=CC=C(C=C1)C=1C=C(SC1)C#CC1=CC=C(OCCN2CCCC2)C=C1 | C24H22ClNOS
